US05869694
To a mixture of methyl 4-chloro-3-hydroxybutyrate (5 g, 33 mmol), and methyl isobutyl ketone (40 ml) are added sodium azide (2.3 g, 36 mmol) and 4-dimethylaminopyridine (403 mg, 3.3 mmol) and the mixture was refluxed under stirring for 11 hours. After cooling the salt was filtered off and the solvent was distilled off under vacuo and there was obtained methyl 4-azido-3-hydroxybutyrate (5.5 g) as a crude product. And followed by the same procedure as in example 1, there was obtained 4-hydroxy-2-pyrrolidone (2.3 g, 23 mmol, yield:70%). When the above reaction was carried out in the absence of 4-dimethylaminopyridine, it took more than 120 hours to detect the disappearance of the starting materials on gas chromatography.

reactant | methyl 4-chloro-3-hydroxybutyrate | 33 mmol, 5 g | ClCC(CC(=O)OC)O | C5H9ClO3
reactant | sodium azide | 36 mmol, 2.3 g | [N-]=[N+]=[N-].[Na+]
catalyst | 4-dimethylaminopyridine | 3.3 mmol, 403 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methyl isobutyl ketone | 40 ml | C(C(C)C)C(=O)C | C6H12O
product | methyl 4-azido-3-hydroxybutyrate | 5.5 g | N(=[N+]=[N-])CC(CC(=O)OC)O | C5H9N3O3
